US07977344B2
N2-Butyl-8-methoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purine-2,6-diamine
To a solution of N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt (100 mg) in dry N,N-dimethylformamide (1 ml) at room temperature and under nitrogen was added potassium carbonate (158 mg) in one go. The reaction was stirred at 60° C. for 1.5 hours and then cooled to 50° C. A solution of 3-(bromomethyl)tetrahydro-2H-pyran (56 mg) in dry N,N-dimethylformamide (0.3 ml) was added in one go and the reaction heated at 50° C. for 16 hours. The reaction was diluted with ethyl acetate (15 ml) and washed with water (5 ml). The organic layer was separated, dried over magnesium sulphate, filtered, and concentrated in vacuo. The product was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluant (20-60%) to afford the title compound as a yellow oil (45 mg).

reactant | N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt | 100 mg | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 158 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(bromomethyl)tetrahydro-2H-pyran | 56 mg | BrCC1COCCC1 | C6H11BrO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N2-Butyl-8-methoxy-9-(tetrahydro-2H-pyran-3-ylmethyl)-9H-purine-2,6-diamine | 45 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC1COCCC1)OC)N | C16H26N6O2
